US04597902
N-[2-(Diethylamino)ethyl]-N-(1-methylethyl)-N'-[2-(phenylsulfonyl)ethyl]urea
A mixture of 6.96 g (0.0376 mole) of 2-phenylsulfonylethanamine and 6.64 g (0.041 mole) of 1,1'-carbonyldiimidazole in 400 ml of tetrahydrofuran was stirred at room temperature for 1 hr. A solution of 6.16 g (0.039 mole) of N-[2-(diethylamino)ethyl]-2-propanamine in 50 ml of tetrahydrofuran was added, and the mixture was refluxed for 13 hr. The solvent was removed in vacuo, and the residue was dissolved in a 50/50 mixture of ether and methylene chloride. The solution was extracted with water and was dried over magnesium sulfate. The solvent was removed in vacuo to give an oil. Flash chromatography on silica gel (methanol) gave 5.74 g (41.36%) of clear, colorless oil: 1H NMR (CDCl3)δ8.5 (br s, 1, NH) 7.46-8.05 (m, 5, aromatic), 4.45 (m, 1, (CH3)2CH), 3.48 (br s, 4, SO2CH2CH 2), 3.0 (t, 2, (CH2CH2N-Et2) 2.3-2.8 (m, 6, CH2N CH2N(CH2CH3)2), 0.90-1.2 (m, 12, CH3 groups).

reactant | 2-phenylsulfonylethanamine | 0.0376 mole, 6.96 g | C1(=CC=CC=C1)S(=O)(=O)CCN | C8H11NO2S
reactant | 1,1'-carbonyldiimidazole | 0.041 mole, 6.64 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-[2-(diethylamino)ethyl]-2-propanamine | 0.039 mole, 6.16 g | C(C)N(CCNC(C)C)CC | C9H22N2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-[2-(Diethylamino)ethyl]-N-(1-methylethyl)-N'-[2-(phenylsulfonyl)ethyl]urea | C(C)N(CCN(C(=O)NCCS(=O)(=O)C1=CC=CC=C1)C(C)C)CC | C18H31N3O3S
